US05045552
500 mg of sodium hydroxide and 15 cc of ethanol were added to the 2-acetoxymethyl-4-(3-methoxypropoxy)-3-methylpyridine prepared above. The obtained mixture was stirred at 50° C. for one hour. After the completion of the reaction, the reaction mixture was distilled to remove the ethanol, followed by the addition of water. The obtained mixture was extracted with chloroform. The obtained chloroform layer was concentrated to obtain 450 mg of 2-hydroxymethyl-4-(3-methoxypropoxy)-3-methylpyridine as a brown oil.

reactant | sodium hydroxide | 500 mg | [OH-].[Na+]
reactant | 2-acetoxymethyl-4-(3-methoxypropoxy)-3-methylpyridine | C(C)(=O)OCC1=NC=CC(=C1C)OCCCOC | C13H19NO4
solvent | ethanol | 15 cc | C(C)O | C2H6O
product | 2-hydroxymethyl-4-(3-methoxypropoxy)-3-methylpyridine | 450 mg | OCC1=NC=CC(=C1C)OCCCOC | C11H17NO3
